US07538123B2
(3) 4-[(2,2-Dimethyl-[1,3]dioxolan-4-yl)methyl]-5-methoxy-2-nitrobenzaldehyde
Thereafter, 253 mg of (4-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-5-methoxy-2-nitrophenyl)methanol was dissolved in 10 ml of methylene chloride. Then, 2.5 g of activated manganese dioxide was added to the reaction solution, and the obtained mixture was then stirred at room temperature for 66 hours. Thereafter, the reaction solution was filtered through celite, and the filtrate was concentrated under a reduced pressure, so as to obtain 137 mg of the subject compound.

reactant | (4-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-5-methoxy-2-nitrophenyl)methanol | 253 mg | CC1(OCC(O1)CC1=CC(=C(C=C1OC)CO)[N+](=O)[O-])C | C14H19NO6
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 2.5 g | [O-2].[O-2].[Mn+4]
product | 4-[(2,2-Dimethyl-[1,3]dioxolan-4-yl)methyl]-5-methoxy-2-nitrobenzaldehyde | 137 mg | CC1(OCC(O1)CC1=CC(=C(C=O)C=C1OC)[N+](=O)[O-])C | C14H17NO6
